US07745475B2
(2R)-1-[(Triisopropylsilyl)oxy]propan-2-ol
Triisopropylsilyl chloride (83.8 mL, 390 mmol) was added slowly over 15 minutes to a solution of (2R)-propane-1,2-diol (29.7 g, 390 mmol) in DMF at 0° C. (100 mL) keeping the internal temperature below 15° C. This was followed by addition of imidazole (66.4 g, 975 mmol) and the reaction mixture was allowed to warm to RT and stirred under argon for 20 hours. The reaction was quenched with 1M hydrochloric acid/diethyl ether (300 mL/800 mL). The organic layer was separated and washed with 1M hydrochloric acid followed by saturated brine solution. The organic layer was dried (MgSO4), filtered and evaporated. Purification by distillation at 10 mmHg, 90-104° C., afforded the title compound as colourless oil (69.5 g).

reactant | Triisopropylsilyl chloride | 390 mmol, 83.8 mL | C(C)(C)[Si](C(C)C)(C(C)C)Cl | C9H21ClSi
reactant | (2R)-propane-1,2-diol | 390 mmol, 29.7 g | C([C@@H](C)O)O | C3H8O2
reactant | imidazole | 975 mmol, 66.4 g | N1C=NC=C1 | C3H4N2
solvent | DMF | CN(C)C=O | C3H7NO
product | (2R)-1-[(Triisopropylsilyl)oxy]propan-2-ol | 69.5 g | C(C)(C)[Si](OC[C@@H](C)O)(C(C)C)C(C)C | C12H28O2Si
